US07582773B2
Step 1: Synthesis of 5-Bromo-3-pentyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 1 of example 3. Thus, 4-bromophenylhydrazine, hydrochloride (4.694 g, 21 mmol) was reacted with heptanophenone (3.806 g, 20 mmol) in ethanol (60 ml) to give the product (5.681 g, 16.598 mmol, 79%) as an oily solid. 1H NMR (DMSO-d6) δ 0.79 (t, J=6.8 Hz, 3H), 1.19-1.31 (m, 4H), 1.51-1.57 (m, 2H), 2.75 (t, J=7.8 Hz, 2H), 7.15 (dd, J=2.0, 8.5 Hz, 1H), 7.26 (d, J=8.5 Hz, 1H), 7.35 (t, J=7.3 Hz, 1H), 7.47 (t, J=7.6 Hz, 2H), 7.55-7.58 (m, 2H), 7.64 (d, J=1.8 Hz, 1H), 11.29 (s, 1H); [ESI(−)], m/z 340/342 (M−H)−.

reactant | 4-bromophenylhydrazine, hydrochloride | 21 mmol, 4.694 g | Cl.BrC1=CC=C(C=C1)NN
reactant | heptanophenone | 20 mmol, 3.806 g | C(CCCCCC)(=O)C1=CC=CC=C1 | C13H18O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-Bromo-3-pentyl-2-phenyl-1H-indole | BrC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)CCCCC | C19H20BrN
